US04740513
1-Diethoxymethyl-4-methylimidazole
4-Methylimidazole (16.4 g), triethylorthoformate (118.4 g), and p-toluene sulphonic acid (1 g) were mixed and heated at 130° until evolution of ethanol ceased (approximately 2 hours). Volatile material was removed in vacuo and the residue was distilled under vacuum from anhydrous sodium carbonate (1 g) to afford the title compound, b.p. 126°-130°/5 mm (22.06 g). The product was characterised spectroscopically and used without further purification (Preparation 26).

reactant | 4-Methylimidazole | 16.4 g | CC=1N=CNC1 | C4H6N2
reactant | triethylorthoformate | 118.4 g | C(C)OC(OCC)OCC | C7H16O3
reactant | p-toluene sulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
product | 1-Diethoxymethyl-4-methylimidazole | C(C)OC(N1C=NC(=C1)C)OCC | C9H16N2O2
